US07199120B2
e) 1-[7-Chloro-2-(3-methyl-2-furyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-ol
To a solution of 7-chloro-2-(3-methyl-2-furyl)pyrazolo[1,5-a]pyridine-3-carbaldehyde (11.56 g, 44.3 mmol) in tetrahydrofuran (200 mL) at −78° C. was added ethynylmagnesium bromide (133 mL, 0.5 M in tetrahydrofuran, 66.5 mmol). The mixture was allowed to warm to room temperature and stirred for 1 hour. Water was added to the reaction and the resulting mixture was extracted with ethyl acetate. The ethyl acetate phase was dried over magnesium sulfate, filtered and concentrated to a solid residue, 1-[7-chloro-2-(3-methyl-2-furyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-ol (12.29 g, 97%). 1H-NMR (CDCl3): δ 7.97 (d, 1H), 7.48 (d, 1H), 7.16 (t, 1H), 6.96 (d, 1H), 6.42 (d, 1H), 6.18 (m, 1H), 2.78 (m, 1H), 2.6 (d, 1H), 2.46 (s, 3H). MS m/z 287 (M+1).

reactant | 7-chloro-2-(3-methyl-2-furyl)pyrazolo[1,5-a]pyridine-3-carbaldehyde | 44.3 mmol, 11.56 g | ClC1=CC=CC=2N1N=C(C2C=O)C=2OC=CC2C | C13H9ClN2O2
reactant | ethynylmagnesium bromide | 66.5 mmol, 0.5 M, 133 mL | C(#C)[Mg]Br
reactant | Water | O | H2O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 1-[7-Chloro-2-(3-methyl-2-furyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-ol | ClC1=CC=CC=2N1N=C(C2C(C#C)O)C=2OC=CC2C | C15H11ClN2O2
